US07482367B2
Red-A1 (sodium bis(2-methoxyethoxy)aluminium hydride, 65% wt in toluene, 0.1 mL) was added dropwise to a solution of 2-{4-[2-(2-fluoro-5-trifluoromethyl-phenylamino)-1-methyl-1H-benzoimidazol-5-yloxy]-pyridin-2-yl}-5-trifluoromethyl-1H-imidazole-4-carboxylic acid ethyl ester (0.0104 g, 0.017 mmol) in toluene. Effervescence was observed and after 20 min, the reaction was quenched with H2O, NaOH and extracted with EtOAc. The organic layer was washed with H2O, dried over Na2SO4, filtered and concentrated to give 5.9 mg of crude (2-{4-[2-(2-fluoro-5-trifluoromethyl-phenylamino)-1-methyl-1H-benzoimidazol-5-yloxy]-pyridin-2-yl}-5-trifluoromethyl-1H-imidazol-4-yl)-methanol which was further purified by RP HPLC (reverse phase HPLC) to give 1.1 mg of the pure compound (98% purity). LC/MS m/z 567.1 (MH+), Rt 2.40 min.

reactant | sodium bis(2-methoxyethoxy)aluminium hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | 2-{4-[2-(2-fluoro-5-trifluoromethyl-phenylamino)-1-methyl-1H-benzoimidazol-5-yloxy]-pyridin-2-yl}-5-trifluoromethyl-1H-imidazole-4-carboxylic acid ethyl ester | 0.017 mmol, 0.0104 g | C(C)OC(=O)C=1N=C(NC1C(F)(F)F)C1=NC=CC(=C1)OC1=CC2=C(N(C(=N2)NC2=C(C=CC(=C2)C(F)(F)F)F)C)C=C1 | C27H19F7N6O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (2-{4-[2-(2-fluoro-5-trifluoromethyl-phenylamino)-1-methyl-1H-benzoimidazol-5-yloxy]-pyridin-2-yl}-5-trifluoromethyl-1H-imidazol-4-yl)-methanol | 5.9 mg | FC1=C(C=C(C=C1)C(F)(F)F)NC1=NC2=C(N1C)C=CC(=C2)OC2=CC(=NC=C2)C=2NC(=C(N2)CO)C(F)(F)F | C25H17F7N6O2
